US07205326B2
Preparation of 4-Chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole
4.45 g (18.0 mmol) 3-(4-Trifluoromethylsulfanyl-phenyl)-acrylamide, 2.79 g (22.0 mmol) dichloro acetone and 50.0 ml toluene were kept at reflux temperature for 30 h with continuous removal of water by use of a Dean-Stark trap. The reaction mixture was cooled for 30 min. in an ice bath and the precipitated amide (1.2 g) was removed by filtration and discarded. After removal of solvents in vacuo, the residue (5.92 g) was purified by chromatography on silica gel (eluent: heptane/ethyl acetate 1:1). All fractions containing the product were concentrated to a volume of 10 ml, n-heptane added and the crystallized material isolated by filtration, washed with cold heptane and dried. 2.02 g (35%) 4-Chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole.

reactant | 3-(4-Trifluoromethylsulfanyl-phenyl)-acrylamide | 18.0 mmol, 4.45 g | FC(F)(F)SC1=CC=C(C=C1)C=CC(=O)N | C10H8F3NOS
reactant | dichloro acetone | 22.0 mmol, 2.79 g | ClC(C(C)=O)Cl | C3H4Cl2O
solvent | toluene | 50.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloromethyl-2-[2-(4-trifluoromethylsulfanyl-phenyl)-vinyl]-oxazole | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)SC(F)(F)F | C13H9ClF3NOS
